US08003806B2
3-{5-[(3-{[Amino(imino)methyl]amino}benzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoic acid
A solution of ethyl 3-{5-[(3-{[amino(imino)methyl]amino}benzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate (32 mg, 68 μmol) in hydrochloric acid (20 mL of a 5N solution) was stirred at room temperature for 96 hours. The solution was evaporated in vacuo and the residue was purified by RP-HPLC to afford the title compound, [LCMS (Method A, Mobile Phase II) RT=2.99 min, MH+ 443].

reactant | ethyl 3-{5-[(3-{[amino(imino)methyl]amino}benzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate | 68 μmol, 32 mg | NC(=N)NC=1C=C(C(=O)NC2=CC3=C(N(C=N3)C(CC(=O)OCC)C3=CC=CC=C3)C=C2)C=CC1 | C26H26N6O3
solvent | hydrochloric acid | Cl | ClH
product | 3-{5-[(3-{[Amino(imino)methyl]amino}benzoyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoic acid | NC(=N)NC=1C=C(C(=O)NC2=CC3=C(N(C=N3)C(CC(=O)O)C3=CC=CC=C3)C=C2)C=CC1 | C24H22N6O3
